US05155130
The starting material is prepared as follows: A mixture of 5-phenoxysalicylaldehyde (6.52 g, 30.4 mmol), crotonaldehyde (3.2 g, 45.7 mmol) and potassium carbonate (8.41 g, 60.9 mmol) in 100 ml of 1,4-dioxane is heated at reflux for 2 hours. The mixture is cooled, diluted with water, and extracted three times with dichloromethane. The combined organic layers are dried (MgSO4) and evaporated. Purification by flash chromatography (silica gel, 7% ethyl acetate/hexane) yields 6-phenoxy-2-methyl-2H-1-benzopyran-3-carboxaldehyde which is converted to 6-phenoxy-2-methyl-3-(N-hydroxyaminomethyl)-2H-1-benzopyran as described above.

reactant | 5-phenoxysalicylaldehyde | 30.4 mmol, 6.52 g | O(C1=CC=CC=C1)C1=CC=C(C(C=O)=C1)O | C13H10O3
reactant | crotonaldehyde | 45.7 mmol, 3.2 g | C(\C=C\C)=O | C4H6O
reactant | potassium carbonate | 60.9 mmol, 8.41 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 6-phenoxy-2-methyl-2H-1-benzopyran-3-carboxaldehyde | O(C1=CC=CC=C1)C=1C=CC2=C(C=C(C(O2)C)C=O)C1 | C17H14O3
